US08563715B2
The synthesis method shall be explained concretely, and in order, below. 4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine (3.0 g, 7.31 mmol) was dissolved in acetic acid (20 ml), an aqueous solution (1 ml) of sodium nitrite (605 mg, 8.78 mmol) was dripped in under water cooling, and agitation was done for 30 minutes at room temperature. After adjusting the pH to approximately 4.0 with a 2N NaOH aqueous solution, extraction was carried out 2 times using dichloromethane. After washing with water, drying was done with MgSO4, and the solvent was distilled away under reduced pressure. The residue was dissolved in a methanol (40 ml)-ethyl acetate (40 ml) mixture solvent, 300 mg of Pd/C was added, and catalytic hydrogenation was done for 2 hours under atmospheric pressure. The Pd/C was filtered using celite, and the filtered liquid was distilled away under reduced pressure. The residue was washed with ether, and 1.63 g (52% yield) of 5-amino-4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine was obtained. The melting point measurement result, the MS measurement result, and the NMR data for the obtained Compound 63 are shown below.

reactant | 4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine | 7.31 mmol, 3.0 g | O1CCN(CC1)C1=NC(=NC(=C1)N1CCOCC1)N1CCN(CC1)C1=CC=CC=C1 | C22H30N6O2
reactant | sodium nitrite | 8.78 mmol, 1 ml, 605 mg | N(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-amino-4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine | 1.63 g, 52% yield | NC=1C(=NC(=NC1N1CCOCC1)N1CCN(CC1)C1=CC=CC=C1)N1CCOCC1 | C22H31N7O2
